US08097620B2
Method 8. Preparation of 2-(5-Hydroxy-2-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetic acid
tert-Butyl 2-(5-hydroxy-2-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetate. To a mixture of tert-butyl 2-(5-hydroxy-8-methyl-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetate (141 mg, 0.34 mmol) and THF (10 mL) was added ammonia, 2.0M methyl alcohol (3 mL, 5.1 mmol) at 0° C. under N2. The mixture was then stirred at 0° C. and warmed to room temperature overnight. LCMS showed no starting material was left and two peaks corresponding to the 7-amino and to the 7-OMe product (ca. 1:1). The white solid was filtered off and discarded. The filtrate was concentrated under reduced pressure to give the title compound. MS m/z: Calculated: 364.35. Observed: 365.

reactant | tert-Butyl 2-(5-hydroxy-2-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetate | OC1=C(C(N(C=2N=C(N=CC21)OC)C)=O)C(=O)NCC(=O)OC(C)(C)C | C16H20N4O6
reactant | tert-butyl 2-(5-hydroxy-8-methyl-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetate | 0.34 mmol, 141 mg | OC1=C(C(N(C=2N=C(N=CC21)S(=O)(=O)C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C16H20N4O7S
reactant | ammonia | N | H3N
reactant | methyl alcohol | 5.1 mmol, 2.0M, 3 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(5-Hydroxy-2-methoxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine-6-carboxamido)acetic acid | OC1=C(C(N(C=2N=C(N=CC21)OC)C)=O)C(=O)NCC(=O)O | C12H12N4O6
